US08809267B2
In a pre-dried 3-necked round bottom flask was dissolved 2,2,2-trifluoro-ethylamine (91 mg, 0.92 mmol, 1.2 equiv) in dry tetrahydrofuran (0.5 mL), under a nitrogen atmosphere. The flask was cooled down to −78° C. and 2.5M n-BuLi in hexanes (428 μL, 1.07 mmol, 1.4 equiv) was added via syringe. The mixture was stirred for 5 minutes then gradually warmed to 0° C. At this point, 8-chloro-2-ethanesulfonyl-4-(4-methoxy-benzyloxy)-quinoline (300 mg, 0.766 mmol, 1 equiv) in a solution of THF was slowly added. The mixture was stirred for 17 h at room temperature then quenched with brine and extracted into dichloromethane. The organic layer was dried over MgSO4 and concentrated down in vacuo to afford [8-chloro-4-(4-methoxy-benzyloxy)-quinolin-2-yl]-(2,2,2-trifluoro-ethyl)-amine (203 mg, 67% yield). LCMS found 397.11 [M+H]+.

reactant | 2,2,2-trifluoro-ethylamine | 0.92 mmol, 91 mg, 1.2 equiv | FC(CN)(F)F | C2H4F3N
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | 8-chloro-2-ethanesulfonyl-4-(4-methoxy-benzyloxy)-quinoline | 0.766 mmol, 300 mg, 1 equiv | ClC=1C=CC=C2C(=CC(=NC12)S(=O)(=O)CC)OCC1=CC=C(C=C1)OC | C19H18ClNO4S
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | [8-chloro-4-(4-methoxy-benzyloxy)-quinolin-2-yl]-(2,2,2-trifluoro-ethyl)-amine | 203 mg, 67% yield | ClC=1C=CC=C2C(=CC(=NC12)NCC(F)(F)F)OCC1=CC=C(C=C1)OC | C19H16ClF3N2O2
